US06096735
4-Chloromethylbenzoic acid methyl ester (26.36 g) is dissolved in 1,2-dimethoxyethane (700 ml), and thereto are added with stirring zinc powder (20.6 g) and bistriphenylphosphine palladium dichloride (5 g) over an ice-bath. To the mixture is added dropwise o-toluoyl chloride (26.5 g), and the mixture is stirred over an ice-bath for three hours, and then stirred at room temperature for three days. The insoluble materials are removed by filtration, and the residue is washed with ethyl acetate. To the mother liquor is added a saturated sodium hydrogen carbonate solution, and the mixture is extracted with ethyl acetate. The organic layer is washed successively with a saturated sodium hydrogen carbonate solution, a 0.5N hydrochloric acid and a saturated sodium chloride solution, dried over magnesium sulfate and concentrated. The residue is purified by silica gel column chromatography (solvent; ethyl acetate:n-hexane=50:1~10:1), and recrystallized from toluene/n-hexane to give 4-[(2-methyl-benzoyl)methyl]benzoic acid methyl ester (15 g).

reactant | 4-Chloromethylbenzoic acid methyl ester | 26.36 g | COC(C1=CC=C(C=C1)CCl)=O | C9H9ClO2
reactant | o-toluoyl chloride | 26.5 g | C=1(C(=CC=CC1)C(=O)Cl)C | C8H7ClO
solvent | 1,2-dimethoxyethane | 700 ml | COCCOC | C4H10O2
catalyst | zinc | 20.6 g | [Zn] | Zn
product | 4-[(2-methyl-benzoyl)methyl]benzoic acid methyl ester | 15 g | COC(C1=CC=C(C=C1)CC(C1=C(C=CC=C1)C)=O)=O | C17H16O3
